US08124617B2
2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridine 4-oxide
A solution (10 ml) of 2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridine (0.2 g) and m-chloroperbenzoic acid (0.15 g) in chloroform was stirred at room temperature for 18 hr. The reaction mixture was washed with aqueous sodium hydrogencarbonate solution, dried over magnesium sulfate and concentrated to give the title compound as colorless crystals. purity 80%. M+H: 376.

reactant | 2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridine | 10 ml, 0.2 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NC=2C(=NC=CC2)N1)OC(C)C | C22H21N3O2
reactant | m-chloroperbenzoic acid | 0.15 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridine 4-oxide | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NC=2C(=[N+](C=CC2)[O-])N1)OC(C)C | C22H21N3O3
